US06174881B1
To a solution of 14 g of 5-(2-chlorophenyl)-7-nitro-3H-1,4-benzodiazepine-2(1H)-thione (J. B. Hester, A. D. Rudzik & B. V. Kamdar, J. Med. Chem., 1971, 14, 1078-1081) in 700 ml of tetrahydrofuran were added firstly 260 ml of 25% aqueous ammonia solution and then 50 ml of methanol. The solution was stirred at room temperature for 20 h. and then concentrated to about 25 ml in a vacuum. The crystalline precipitate was filtered off and recrystallized from dioxan. There were obtained 13.2 g of 2-amino-5-(2-chlorophenyl)-7-nitro-3H-1,4-benzodiazepine of m.p. 222-224° C.

reactant | 5-(2-chlorophenyl)-7-nitro-3H-1,4-benzodiazepine-2(1H)-thione | 14 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)[N+](=O)[O-])=S | C15H10ClN3O2S
reactant | ammonia | 260 ml | N | H3N
reactant | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 2-amino-5-(2-chlorophenyl)-7-nitro-3H-1,4-benzodiazepine | 13.2 g | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)[N+](=O)[O-] | C15H11ClN4O2
